US08426602B2
2-Amino-4-(2-bromo-1,3-thiazol-4-yl)-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)pyridine-3,5-dicarbonitrile
4.78 g (purity 77%, 10.882 mmol) of 2-amino-4-(2-bromo-1,3-thiazol-4-yl)-6-sulfanylpyridine-3,5-dicarbonitrile were initially charged in 30 ml of DMF, 2.923 g (11.971 mmol) of 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-thiazole and 2.742 g (32.647 mmol) of sodium bicarbonate were added and the mixture was stirred at room temperature overnight. The reaction mixture was added to water, and the precipitated solid was filtered off with suction, washed with water and dried under high vacuum. The contaminated product was applied to silica gel and purified by chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 2:1). The product-containing fractions were concentrated, the residue was triturated with dichloromethane and the solid was filtered off, washed with dichloromethane and dried under high vacuum. This gave 1.1 g of the target compound in a purity of 91% (yield: 17% of theory).

reactant | 2-amino-4-(2-bromo-1,3-thiazol-4-yl)-6-sulfanylpyridine-3,5-dicarbonitrile | 10.882 mmol, 4.78 g | NC1=NC(=C(C(=C1C#N)C=1N=C(SC1)Br)C#N)S | C10H4BrN5S2
reactant | 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-thiazole | 11.971 mmol, 2.923 g | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
reactant | sodium bicarbonate | 32.647 mmol, 2.742 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-(2-bromo-1,3-thiazol-4-yl)-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)pyridine-3,5-dicarbonitrile | yield: 17% | NC1=NC(=C(C(=C1C#N)C=1N=C(SC1)Br)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H10BrClN6S3
